datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:21]=[C:20]2[O]C(C)C([H])[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O]C(C)C([H])[S]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)[H])[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)[H])[H].[O-:21]CCCCCC 10=20;20,21=21"
"[O-:21][C:20]2([NH+:10](C)C(C=CC=C3)=C3C2C)[H]>>[NH:10](C)C1=C(C(C)[C:20]([H])=[O:21])C=CC=C1 21=20;20,10=10"
"[H][O:10]C([H])C([H])C([H])[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC)CCCCCC)C>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC)CCCCCC)C 21=20;20,10=10"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21]C)([O]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10][H].C[NH+:21]=[C:20]([O]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C([H])=C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])/C(C)=C([H])\C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(CC)[S]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C)[S]1 10=20;20,21=21"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C([H])[O]2.[H][S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[OH:10]C(CCC)C(C)/C([H])=C([H])\[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C([H])=C([H])C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"C[O:10][H].CC[NH+:21]=[C:20]([O]CC)[NH]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([O]CC)[NH]CC 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CC)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O:21]=[C:20](OCCCCCC)OC.[O-:10]CC>>CC[O:10][C:20]([O-:21])(OCCCCCC)OC 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)[H])C.[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)[H])C 21=20;20,10=10"
"C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S][H] 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)[H])CC>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)[H])[O-:10])CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[S]C([H])C(CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C(CC)[S]2.[H][O:10][H] 21=20;20,10=10"
"[NH:10](C)C(C)C(C)N([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[NH+:10](C)C(C)C(C)N1[H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OCC)[O:21]C)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OCC)C1=CC=CC=C1.[O-:21]C 10=20;20,21=21"
"[NH:10]([H])C(C)C([H])C(C)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(C)C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)CCCCCC)[O-:10])[H]>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CCCCCC)[H] 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])C1=CC=CC=C1)CC>>CCN([C:20]1(OC(C(C([O:21]1)CC)[H])C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[O:10]([K])C([H])C(C)/C(C)=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C(C)C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C([H])[O][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)C1=CC=CC=C1)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
